US04761415
A solution of 2-(4-methyl-1-piperazinyl)acetic acid, hydrazide (2.58 g., 0.015 mole) and 3-fluorobenzylisothiocyanate (2.51 g., 0.015 mole) in ethanol (30 ml.) was refluxed for 17 hours and the solvent was removed under vacuum. The residue was triturated with ether and the resulting solid was filtered and recrystallized from ethyl acetate to give 3-mercapto-4-(3-fluorobenzyl)-5-[(4-methyl-1-piperazinyl)methyl]-1,2,4-triazole as a solid melting at 179.5°-180.5° C. (2.30 g., 48%).

reactant | 2-(4-methyl-1-piperazinyl)acetic acid, hydrazide | 0.015 mole, 2.58 g | CN1CCN(CC1)CC(=O)NN | C7H16N4O
reactant | 3-fluorobenzylisothiocyanate | 0.015 mole, 2.51 g | FC=1C=C(CN=C=S)C=CC1 | C8H6FNS
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-mercapto-4-(3-fluorobenzyl)-5-[(4-methyl-1-piperazinyl)methyl]-1,2,4-triazole | SC1=NN=C(N1CC1=CC(=CC=C1)F)CN1CCN(CC1)C | C15H20FN5S
